US05606051
3-Acetyl-5-methyl-1-[2-(1-methyltetrazol-5-ylthio)ethyl]pyrazole
3-Acetyl-5-methyl-1-(2-hydroxyethyl)pyrazole (1.74g), triphenyl- phosphine (4.071 g) and 5-mercapto-1-methyltetrazole (3.605 g) were dissolved in dry THF (125 ml) and cooled to 5° C. under an atmosphere of argon. A solution of diethylazodicarboxylate (2.70 g) in THF (25 ml) was added dropwise to the stirred, cooled solution. Stirring was continued at 5° C. for 4 h. The reaction mixture was then partitioned between ethyl acetate and water. The organic solution was washed with NaHCO3 solution, brine, dried (MgSO4) and evaporated. Silica gel column chromatography provided the title compound (1.25 g), umax (CH2Cl2) 1683 cm-1 ; dH (CDCl3) 2.30 (3H, s), 2.55 (3H, s), 3.80 (2H, t), 3.92 (3H, s), 4.59 (2H, t), 6.51 (1H, s); m/z 266.0953 (M+), calculated for C10H14N6OS 266.0950.

reactant | 3-Acetyl-5-methyl-1-(2-hydroxyethyl)pyrazole | 1.74g | C(C)(=O)C1=NN(C(=C1)C)CCO | C8H12N2O2
reactant | triphenyl- phosphine | 4.071 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 5-mercapto-1-methyltetrazole | 3.605 g | SC1=NN=NN1C | C2H4N4S
reactant | diethylazodicarboxylate | 2.70 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 125 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 3-Acetyl-5-methyl-1-[2-(1-methyltetrazol-5-ylthio)ethyl]pyrazole | 1.25 g | C(C)(=O)C1=NN(C(=C1)C)CCSC1=NN=NN1C | C10H14N6OS
